US07230007B2
a) N-[1-(Quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine
0.477 g (20.73 mmol) of sodium (washed beforehand in toluene) was gradually added to 40 cm3 of methanol at a temperature in the region of 20° C. under an argon atmosphere. After dissolving with stirring, 2.021 g (20.74 mmol) of guanidine hydrochloride were added and the mixture was stirred at a temperature in the region of 20° C. for 2 h. The reaction mixture was filtered and then concentrated to dryness under reduced pressure (2.7 kPa), and the residue was subsequently taken up in a mixture of 70 cm3 of tetrahydrofuran and 70 cm3 of dichloromethane under an argon atmosphere at a temperature in the region of 20° C. 3.46 mmol of 3-chlorocarbonyl-1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride were added thereto with stirring. After stirring at a temperature in the region of 20° C. for 15 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa). The solid residue was taken up in 100 cm3 of water and stirred for 2 h and then the insoluble material was filtered off. The solid obtained was dried and then triturated in 20 cm3 of cyclohexane. The solid was filtered off and then dried at a temperature in the region of 20° C. under reduced pressure (2.7 kPa), and 0.921 g of N-[1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine was thus obtained in the form of a light yellow solid melting at 242° C. 1H N.M.R. spectrum (300 MHz, (CD3)2SO, δ in ppm): from 6.20 to 7.30 (very broad unresolved peak, 2H), 7.39 (dd, J=8 and 5 Hz, 1H), 7.63 (broad t, J=7.5 Hz, 1H), 7.84 (broad t, J=7.5 Hz, 1H), 8.03 and 8.07 (2 broad d, J=7.5 Hz, each 1H), 8.48 (dd, J=5 and 1.5 Hz, 1H), 8.64 (d, J=9 Hz, 1H), 8.89 (dd, J=8 and 1.5 Hz, 1H), 9.06 (s, 1H), 9.21 (d, J=9 Hz, 1H).

reactant | sodium | 20.73 mmol, 0.477 g | [Na] | Na
reactant | guanidine hydrochloride | 20.74 mmol, 2.021 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-1-(quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 3.46 mmol | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=NC1=CC=CC=C1C=C2
solvent | methanol | 40 cm3 | CO | CH4O
product | N-[1-(Quinolin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine | N1=C(C=CC2=CC=CC=C12)N1C=C(C=2C1=NC=CC2)C(=O)NC(=N)N | C18H14N6O
